US07199147B2
Acetic anhydride (16.4 ml, 174 mmol), tetrabutylammonium bromide (933 mg, 2.90 mmol), potassium acetate (11.4 g, 116 mmol) and isoamyl nitrite (11.7 ml, 86.9 mmol) were added to a solution of 3-(acetylamino)-2-methylphenyl acetate (12.0 g, 57.9 mmol) in ethyl acetate (120 ml) at room temperature, and the resulting mixture was refluxed for 7 hours. The reaction solution was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=3/1). Subsequently, the residue purified was dissolved in methanol (50 ml) and a 2N-aqueous sodium hydroxide solution (47.9 ml) was added thereto at room temperature and stirred for 1 hour. The methanol was distilled off under reduced pressure, and the resulting aqueous solution was adjusted to pH 4 to 5 by dropwise addition of hydrochloric acid and then extracted with acetic acid. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to obtain 1H-indazol-4-ol (3.62 g, 47%).

reactant | Acetic anhydride | 174 mmol, 16.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 116 mmol, 11.4 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 86.9 mmol, 11.7 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | 3-(acetylamino)-2-methylphenyl acetate | 57.9 mmol, 12.0 g | C(C)(=O)OC1=C(C(=CC=C1)NC(C)=O)C | C11H13NO3
catalyst | tetrabutylammonium bromide | 2.90 mmol, 933 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1H-indazol-4-ol | 3.62 g, 47% | N1N=CC=2C(=CC=CC12)O | C7H6N2O
